US08314107B2
Sodium triacetoxyborohydride (2.2 g, 10.4 mmol) was added to a solution of methyl 1,2,3,4-tetrahydroisoquinoline-7-carboxylate hydrochloride (1.0 g, 4.4 mmol) and 4-cyanobenzaldehyde (0.83 g, 6.3 mmol) in dichloromethane (10 mL). The resulting reaction mixture was allowed to stir at room temperature overnight, poured over saturated sodium bicarbonate solution (75 mL) and extracted with dichloromethane (3×30 mL). The combined organic layer was washed with water (2×30 mL), dried (MgSO4), filtered and concentrated to give a foamy residue. Column chromatography (30% ethyl acetate/hexanes) provided methyl 2-(4-cyanobenzyl)-1,2,3,4-tetrahydroisoquinoline-7-carboxylate as a white crystalline solid upon trituration with ethyl ether (1.30 g, 97%). 1H NMR (CDCl3) δ 7.85 (1H, d, J=7.7 Hz); 7.72-7.58 (5H, m); 7.23 (1H, d, J=8.0 Hz); 4.00-3.98 (2H, m); 3.92 (3H, s); 3.83 (2H, br s); 3.08 (2H, br s); 2.97 (2H, br s). MS (M+H)+=307.

reactant | Sodium triacetoxyborohydride | 10.4 mmol, 2.2 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | methyl 1,2,3,4-tetrahydroisoquinoline-7-carboxylate hydrochloride | 4.4 mmol, 1.0 g | Cl.C1NCCC2=CC=C(C=C12)C(=O)OC
reactant | 4-cyanobenzaldehyde | 6.3 mmol, 0.83 g | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | sodium bicarbonate | 75 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | ethyl ether | 1.30 g | C(C)OCC | C4H10O
product | methyl 2-(4-cyanobenzyl)-1,2,3,4-tetrahydroisoquinoline-7-carboxylate | C(#N)C1=CC=C(CN2CC3=CC(=CC=C3CC2)C(=O)OC)C=C1 | C19H18N2O2
